US07074800B1
4-Bromo-5-methoxyindole-2-carboxylic acid (1.25 g, 4.19 mmol), quinoline (15 ml) and copper chromite (313 mg) were mixed together. Nitrogen was gently bubbled through the mixture for 5 minutes, then the mixture heated quickly to 245° C. under an atmosphere of nitrogen. After 90 minutes the mixture was cooled to ambient temperature diluted with ethyl acetate (100 ml) and washed with 2M aqueous hydrochloric acid (60 ml). The ethyl acetate layer was filtered, the filtrate dried (MgSO4) and the solvent evaporated. The residue was purified by silica column chromatography eluting with dichloromethane/hexane (1/1) to give 4-bromo-5-methoxyindole (635 mg, 60%).

reactant | 4-Bromo-5-methoxyindole-2-carboxylic acid | 4.19 mmol, 1.25 g | BrC1=C2C=C(NC2=CC=C1OC)C(=O)O | C10H8BrNO3
reactant | quinoline | 15 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper chromite | 313 mg | [Cr](=O)([O-])[O-].[Cu+2]
product | 4-bromo-5-methoxyindole | 635 mg, 60% | BrC1=C2C=CNC2=CC=C1OC | C9H8BrNO
